US04962109
(ii) 1,1-dichloro-2-[2-(1,1-dimethylethyl)-pyrimidin-5-yl]-3,3,3-trifluoroprop-1-ene
2-(1,1-dimethylethyl-5-trifluoroacetylpyrimidine (0.9 g) was dissolved in dry carbon tetrachloride (15 cm3) containing triphenylphosphine (2.5 g). The reaction mixture was stirred under a nitrogen atmosphere and heated at the reflux temperature for 30 hours to give a deep red-brown solution. The reaction mixture was fractioned by filtering the cooled solution through a short column of silica gel and eluting with a mixture of hexane/dichloromethane (3:1 by volume). On evaporation of the solvents the product was obtained as a colourless solid (0.9 g)

reactant | 1,1-dimethylethyl-5-trifluoroacetylpyrimidine | 0.9 g | CC(C)(C)C1=NC=C(C=N1)C(C(F)(F)F)=O | C10H11F3N2O
reactant | triphenylphosphine | 2.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 15 cm3 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,1-dichloro-2-[2-(1,1-dimethylethyl)-pyrimidin-5-yl]-3,3,3-trifluoroprop-1-ene | 0.9 g | ClC(=C(C(F)(F)F)C=1C=NC(=NC1)C(C)(C)C)Cl | C11H11Cl2F3N2
